US05130328
Preparation of 4,5-Dichloro-1-(chloromethyl)-2-(3,4-dichlorophenyl)pyrrol-3-carbonitrile
A mixture of N-{[2,3-dichloro-4-cyano-5-(3,4-dichlorophenyl)pyrrol-1-yl]methyl}acetamide (3.2 g, 0.0085 mol) and phosphorus oxychloride (6.51 g, 4 mL, 0.0424 mol) is heated at reflux temperature for 40 minutes, cooled, diluted with water and extracted with ethyl acetate. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a solid. Recrystallization of the solid from an ethyl acetate/heptane solution gives the title product as a pale brown solid (2.35 g, mp 153°-156.0° C.) which is identified by IR and NMR spectral analyses.

reactant | N-{[2,3-dichloro-4-cyano-5-(3,4-dichlorophenyl)pyrrol-1-yl]methyl}acetamide | 0.0085 mol, 3.2 g | ClC=1N(C(=C(C1Cl)C#N)C1=CC(=C(C=C1)Cl)Cl)CNC(C)=O | C14H9Cl4N3O
reactant | phosphorus oxychloride | 0.0424 mol, 4 mL, 6.51 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 4,5-Dichloro-1-(chloromethyl)-2-(3,4-dichlorophenyl)pyrrol-3-carbonitrile | 2.35 g | ClC=1C(=C(N(C1Cl)CCl)C1=CC(=C(C=C1)Cl)Cl)C#N | C12H5Cl5N2
